US08791288B2
Synthesis of 1-(1-methylspiro[4.5]decyl methacrylate (Monomer 5)
With stirring under nitrogen atmosphere at 40° C., 500 ml of toluene was added dropwise to a tetrahydrofuran solution of 0.95 mol methylmagnesium chloride (which had been prepared from 23 g of metallic magnesium, 500 ml of tetrahydrofuran and chloromethane), and then a mixture of 73 g of spiro[4.5]decan-1-one (which had been synthesized from cyclopentanone by a method as described in A. P. Krapcho, Synthesis, 1974, p 383 and references cited therein) and 1300 ml of toluene added. The reaction mixture was stirred overnight at 70° C. and returned to room temperature, after which a saturated ammonium chloride aqueous solution was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent vacuum distillation, there was obtained 50.2 g (yield 63%) of the target compound, 1-methylspiro[4.5]decan-1-ol.

reactant | methylmagnesium chloride | 0.95 mol, 500 ml, 23 g | C[Mg]Cl
reactant | spiro[4.5]decan-1-one | 73 g | C1(CCCC12CCCCC2)=O | C10H16O
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 1-methylspiro[4.5]decan-1-ol | CC1(CCCC12CCCCC2)O | C11H20O
solvent | toluene | 1300 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methylspiro[4.5]decyl methacrylate | 50.2 g, yield 63% | C(C(=C)C)(=O)OC1(CCCC12CCCCC2)C | C15H24O2
